US08703941B2
A solution of ethyl 1-[6-ethylthieno[2,3-d]pyrimidin-4-yl]piperidine-4-carboxylate (1.4 g, 4.38 mmol, 1.00 equiv) in ammonium hydroxide (50 mL) was heated to reflux for 12 hrs. The reaction mixture was cooled. The resulting mixture was concentrated under vacuum and dissolved in 20 ml of aqueous hydrogen chloride (12 N) and concentrated again to give 950 mg (crude) of 1-[6-ethylthieno[2,3-d]pyrimidin-4-yl]piperidine-4-carboxylic acid as a yellow solid.

reactant | ethyl 1-[6-ethylthieno[2,3-d]pyrimidin-4-yl]piperidine-4-carboxylate | 4.38 mmol, 1.4 g, 1.00 equiv | C(C)C1=CC2=C(N=CN=C2N2CCC(CC2)C(=O)OCC)S1 | C16H21N3O2S
solvent | ammonium hydroxide | 50 mL | [OH-].[NH4+]
product | 1-[6-ethylthieno[2,3-d]pyrimidin-4-yl]piperidine-4-carboxylic acid | 950 mg | C(C)C1=CC2=C(N=CN=C2N2CCC(CC2)C(=O)O)S1 | C14H17N3O2S
